US07361763B2
Step 2: Synthesis of 5-bromo-3-[1-(6-fluoro-pyridin-3-yl)-2-methoxy-vinyl]-pyridin-2-ylamine
To a suspension of (methoxymethyl)triphenylphosphonium chloride (1.16 g, 3.38 mmol) in THF (4 ml) at 0° C. under nitrogen was added dropwise a 1M solution of lithium bis(trimethylsilyl)amide in THF (3.4 ml, 3.4 mmol). The resulting dark red mixture was stirred at 0° C. for 10 minutes to generate the ylide reagent. To a solution of (2-amino-5-bromo-pyridin-3-yl)-(6-fluoro-pyridin-3-yl)-methanone (400 mg, 1.35 mmol) in THF (6 ml) was added dropwise a 1 M solution of tert-butylmagnesium chloride in THF (1.35 ml) at 0° C. under nitrogen. The reaction mixture was stirred at 0° C. for 5 minutes, then the ylide reagent was added dropwise in 5 minutes. The reaction mixture was allowed to warm up to room temperature in 45 minutes before quenching with a saturated aqueous solution of ammonium chloride (50 ml) at 0° C. The mixture was stirred vigorously for 1.5 hours at room temperature. Water was added, followed by extracting ethyl acetate (three times). The combined organic layers were washed with brine, and directly adsorbed on silica gel. Purification on silica gel with a gradient of ethyl acetate/hexane afforded the title compound (single isomer) as a dark foam (220 mg, 50% yield). 1H NMR (DMSO-d6): δ 8.15 (d, J=2.5 Hz, 1H), 8.00 (d, J=2.5 Hz, 1H), 7.78 (dt, J=2.5, 8.5 Hz, 1H), 7.48 (d, J=2.5 Hz, 1H), 7.10 (dd, J=3.0, 8.5 Hz, 1H), 6.61 (s, 1H), 5.73 (broad s, 2H), 3.80 (s, 3H); MS: m/z 324, 326 [MH]+.

reactant | (methoxymethyl)triphenylphosphonium chloride | 3.38 mmol, 1.16 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (2-amino-5-bromo-pyridin-3-yl)-(6-fluoro-pyridin-3-yl)-methanone | 1.35 mmol, 400 mg | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)F)Br | C11H7BrFN3O
reactant | tert-butylmagnesium chloride | C(C)(C)(C)[Mg]Cl
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 1.35 ml | C1CCOC1 | C4H8O
solvent | THF | 3.4 mmol, 3.4 ml | C1CCOC1 | C4H8O
product | 5-bromo-3-[1-(6-fluoro-pyridin-3-yl)-2-methoxy-vinyl]-pyridin-2-ylamine | BrC=1C=C(C(=NC1)N)C(=COC)C=1C=NC(=CC1)F | C13H11BrFN3O
